US03975443
A mixture of 1-aminomethylcyclohexyl dimethylamine (1.0 g.), 3,4-dichlorobenzoyl chloride (2 ml) and pyridine (10 ml) was allowed to stand at room temp. for 1 hr. The pale yellow solid produced was filtered and recrystallised from ethanol/ether to give a colourless microneedles of 1-(3,4-dichlorobenzamidomethyl)-cyclohexyldimethylamine hydrochloride m.p. 215°-16° .

reactant | 1-aminomethylcyclohexyl dimethylamine | 1.0 g | NCC1(CCCCC1)N(C)C | C9H20N2
reactant | 3,4-dichlorobenzoyl chloride | 2 ml | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3,4-dichlorobenzamidomethyl)-cyclohexyldimethylamine hydrochloride | Cl.ClC=1C=C(C(=O)NCC2(CCCCC2)N(C)C)C=CC1Cl | InChI=1S/C16H22Cl2N2O.ClH/c1-20(2)16(8-4-3-5-9-16)11-19-15(21)12-6-7-13(17)14(18)10-12;/h6-7,10H,3-5,8-9,11H2,1-2H3,(H,19,21);1H
